US05319100
(2) The Preparation of N-carbamoyl-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one (Ia-1)
A solution of 2.0 g of N-carbamoyl-3-bromopyrrolidin-2-one (9.7 mmole) and 2.78 g of triphenylphosphine (10.6 mmole) in 30 ml of THF was stirred under heating at 70° C. for 20 hours. The reaction mixture was cooled down to room temperature, then the precipitated crystals were collected. The obtained Wittig salt (1.34 g, 2.86 mmole), 3,5-di-tert-butyl-4-hydroxybenzaldehyde (670 mg, 2.86 mmole), and triethylamine (580 mg, 5.73 mmole) were dissolved into 60 ml of ethanol, and the mixture was stirred under heating at 70° C. for 2 hours. The reaction mixture was evaporated, then the residue was dissolved into ethyl acetate, which was washed with water and saturated brine, dried over magnesium sulfate, and evaporated. The residue was separated by using silica gel chromatography (toluene:ethyl acetate=3:1) and recrystallized from dichloromethane-n-hexane, whereby 600 mg of the objective compound was obtained in 17.1% yield. The physical constants are described on Table 1.

reactant | N-carbamoyl-3-bromopyrrolidin-2-one | 9.7 mmole, 2.0 g | C(N)(=O)N1C(C(CC1)Br)=O | C5H7BrN2O2
reactant | triphenylphosphine | 10.6 mmole, 2.78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 2.86 mmole, 670 mg | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | triethylamine | 5.73 mmole, 580 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | N-carbamoyl-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one | 600 mg, 17.1% yield | C(N)(=O)N1C(C(CC1)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C20H28N2O3
